US08957080B2
Into a 50 mL round-bottom flask, was placed a solution of tert-butyl (2R)-2-([4-amino-3-[4-(2,6-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)-pyrrolidine-1-carboxylate (280 mg, 0.54 mmol, 1.00 equiv) in dichloromethane (10 mL). Trifluoroacetic acid (2 mg, 0.02 mmol, 0.03 equiv) was added dropwise with stirring at 25° C. The resulting solution was stirred for 3 h at 25° C. and then concentrated under vacuum. The resulting solution was diluted with 50 mL of dichloromethane, washed with ethyl acetate and H2O, brine and concentrated under vacuum to give 200 mg (88%) of 3-[4-(2,6-difluorophenoxy)phenyl]-1-[(2R)-pyrrolidin-2-ylmethyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine as a white solid.

reactant | tert-butyl (2R)-2-([4-amino-3-[4-(2,6-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)-pyrrolidine-1-carboxylate | 0.54 mmol, 280 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=C(C=CC=C2F)F)C[C@@H]2N(CCC2)C(=O)OC(C)(C)C | C27H28F2N6O3
reactant | Trifluoroacetic acid | 0.02 mmol, 2 mg, 0.03 equiv | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-[4-(2,6-difluorophenoxy)phenyl]-1-[(2R)-pyrrolidin-2-ylmethyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 200 mg, 88% | FC1=C(OC2=CC=C(C=C2)C2=NN(C3=NC=NC(=C32)N)C[C@@H]3NCCC3)C(=CC=C1)F | C22H20F2N6O
